US07977358B2
[5-Cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazol-4-yl]-[4-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-piperidin-1-yl]-methanone
In analogy to the procedure described in Example 160E, 5-cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid (Example 162D]) and ((S)-1-piperidin-4-yl-pyrrolidin-2-yl)-methanol dihydrochloride (Example 161A]) gave the title compound as a light brown oil (56%). MS: 556.2 (MH+).

reactant | 5-cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid | C1(CC1)C1=C(C(=NN1C1=CC(=CC=C1)OC(F)(F)F)C1=CC=NC=C1)C(=O)O | C19H14F3N3O3
reactant | ((S)-1-piperidin-4-yl-pyrrolidin-2-yl)-methanol dihydrochloride | Cl.Cl.N1CCC(CC1)N1[C@@H](CCC1)CO
product | [5-Cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazol-4-yl]-[4-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-piperidin-1-yl]-methanone | 56% | C1(CC1)C1=C(C(=NN1C1=CC(=CC=C1)OC(F)(F)F)C1=CC=NC=C1)C(=O)N1CCC(CC1)N1[C@@H](CCC1)CO | C29H32F3N5O3
